US07825256B2
A solution of benzo[1,3]dioxol-5-ylmethyl-(2-methylamino-ethyl)-carbamic acid tert-butyl ester (200 mg, 649 μmol), 5-chloro-3-imidazol-1-yl-[1,2,4]thiadiazole (121 mg, 649 μmol) and TEA (181 μL, 1.30 mmol) in DMSO (6 mL) was stirred at r.t. for 21 h. Water (50 mL) was added and the solution was extracted with ethyl acetate (2×25 mL), washed with brine, dried over Na2SO4, filtered and concentrated to a clear oil. The crude residue was dissolved in TFA/DCM (1:1, 4 mL) and stirred at room temperature for 30 min. The solvent was evaporated to afford an orange oil. The crude product was diluted with EtOAc (50 mL), washed with 1M NaOH (50 mL), brine (50 mL), dried over Na2SO4, filtered and concentrated to an oil. Purification was achieved using column chromatography (CH2Cl2 to 4:1 CH2Cl2/MeOH) to afford 21.3 mg (9%) of N′-benzo[1,3]dioxol-5-ylmethyl-N-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-N-methyl-ethane-1,2-diamine as a white solid. [M+H]+ 358.92; 1H NMR (400 MHz, CDCl3) δ 8.30 (s, 1H), 7.64 (s, 1H), 7.07 (s, 1H), 6.81 (s, 1H), 6.73 (m, 2H), 5.92 (s, 2H), 3.76 (s, 3H), 3.65 (br s, 1H), 3.14 (m, 4H), 2.95 (t, 2H).

reactant | benzo[1,3]dioxol-5-ylmethyl-(2-methylamino-ethyl)-carbamic acid tert-butyl ester | 649 μmol, 200 mg | C(C)(C)(C)OC(N(CCNC)CC1=CC2=C(OCO2)C=C1)=O | C16H24N2O4
reactant | 5-chloro-3-imidazol-1-yl-[1,2,4]thiadiazole | 649 μmol, 121 mg | ClC1=NC(=NS1)N1C=NC=C1 | C5H3ClN4S
reactant | Water | 50 mL | O | H2O
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N′-benzo[1,3]dioxol-5-ylmethyl-N-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-N-methyl-ethane-1,2-diamine | 21.3 mg, 9% | O1COC2=C1C=CC(=C2)CNCCN(C)C2=NC(=NS2)N2C=NC=C2 | C16H18N6O2S
